US07816513B2
Synthesis of 2′,3′-dideoxyinosine (DDI)
To a N,N-dimethylformamide solution (1 mL) of N1,5′-O-dibenzyl-2′,3′-dideoxyinosine (52 mg, 0.125 mmol), an aqueous solution of sodium hydroxide (0.3 mL) at a concentration of 1 mol/L was added, and the mixture was stirred at room temperature for 2 hours. To the obtained solution, 20% palladium hydroxide-carbon (10 mg) was added, and the mixture was stirred at room temperature for 2 hours in an atmosphere of hydrogen (1 atm) and thereafter stirred at 80° C. for 16 hours and at 100° C. for 6 hours. The palladium catalyst was removed from the obtained reaction mixture by filtration, and the resultant filtrate was concentrated under reduced pressure. After purification by chromatography (using 10 g of silica gel and a mixed solvent of dichloromethane and methanol (4:1) as an eluting solution), 21 mg of the intended product was obtained in a yield of 70% as a white solid.

reactant | N1,5′-O-dibenzyl-2′,3′-dideoxyinosine | 0.125 mmol, 52 mg | C(C1=CC=CC=C1)N1C(C=2N=CN([C@H]3CC[C@@H](COCC4=CC=CC=C4)O3)C2N=C1)=O | C24H24N4O3
reactant | sodium hydroxide | 0.3 mL | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide carbon | 10 mg | [OH-].[Pd+2].[OH-].[C]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2′,3′-dideoxyinosine | 21 mg, yield of 70% | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O3
